US03959478
Preparation of 2-(4-Fluorophenyl)-1,2,4-oxadiazolidin-3,5-dione
1-(4-Fluorophenyl)-1-hydroxyurea (0.2 mole) dissolved in aqueous sodium hydroxide (200 ml; 2 N) is charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The solution is cooled to a temperature of about 10°C and ethyl chloroformate (0.21 mole) is slowly added with stirring. After the addition is completed stirring is continued for a period of about one hour. The reaction mixture is then poured into 2 liters of water. The resulting aqueous solution is then filtered and the filtrate is cooled and acidified with concentrated hydrochloric acid to form a precipitate. The precipitate is recovered by filtration and is dried. The dried product is then dissolved in a methylene chloridetetrahydrofuran mixture and the resulting solution is dried over anhydrous magnesium sulfate, filtered and stripped of solvent to yield the desired product 2-(4-fluorophenyl)-1,2,4-oxadiazolidin-3,5-dione as the residue.

reactant | 1-(4-Fluorophenyl)-1-hydroxyurea | 0.2 mole | FC1=CC=C(C=C1)N(C(=O)N)O | C7H7FN2O2
reactant | ethyl chloroformate | 0.21 mole | ClC(=O)OCC | C3H5ClO2
reactant | water | 2 liters | O | H2O
solvent | sodium hydroxide | 2 N, 200 ml | [OH-].[Na+]
product | 2-(4-fluorophenyl)-1,2,4-oxadiazolidin-3,5-dione | FC1=CC=C(C=C1)N1OC(NC1=O)=O | C8H5FN2O3
